US07288541B2
Preparation of tert-butyl (1S)-1-formylpentylcarbamate
To a stirred solution of 54.0 mL (180.0 mmol) of 65 wt % bis (2-methoxyethoxy) aluminum hydride in toluene in 100 mL of toluene at −20° C. was added a solution of 35.0 g (120.0 mmol) of tert-butyl (1S)-1-{[methoxy(methyl)amino]carbonyl}pentylcarbamate in 100 mL of toluene over 30 min. After stirring at −20° C. for 2 h, 300 mL of 3M aqueous sodium chloride was added dropwise, and the layers were separated. The toluene portion was washed with 100 mL of 1 N hydrochloric acid (2×), 50 mL of 0.1 N sodium hydroxide (2×), 50 mL of brine, dried over anhydrous magnesium sulfate, and then concentrated to 200 mL. The aldehyde solution was used immediately. An aliquot was removed and concentrated, and the aldehyde was analyzed immediately. 1H-NMR (400 MHz, DMSO-d6): δ 9.39 (s, 1H), 7.23 (d, J=7 Hz, 1H), 3.75 (m, 1H), 1.70–1.08 (m, 6H), 1.36 (s, 9H), 0.81 (t, J=6 Hz, 3H).

reactant | bis (2-methoxyethoxy) aluminum hydride | [H-].COCCO[Al+]OCCOC
reactant | tert-butyl (1S)-1-{[methoxy(methyl)amino]carbonyl}pentylcarbamate | 120.0 mmol, 35.0 g | CON(C(=O)[C@H](CCCC)NC(OC(C)(C)C)=O)C | C13H26N2O4
reactant | sodium chloride | 3M, 300 mL | [Cl-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (1S)-1-formylpentylcarbamate | C(=O)[C@H](CCCC)NC(OC(C)(C)C)=O | C11H21NO3
